US07041668B2
5.98 g of (5-hydroxy-1H-benzoimidazol-2-yl)-carbamic acid tert-butyl ester were combinated with 4.67 g of 4-fluorobenzenesulfonyl chloride and 6.75 ml of trietylamine in 100 ml acetone. The reaction mixture was stirred at room temperature for 1 hour. Solvents were evaporated under reduced pressure yielding 6.45 g crude 4-fluoro-benzenesulfonic acid 2-tert-butoxycarbonylamino-1H-benzoimidazol-5-yl ester.

reactant | (5-hydroxy-1H-benzoimidazol-2-yl)-carbamic acid tert-butyl ester | 5.98 g | C(C)(C)(C)OC(NC1=NC2=C(N1)C=CC(=C2)O)=O | C12H15N3O3
reactant | 4-fluorobenzenesulfonyl chloride | 4.67 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | trietylamine | 6.75 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-fluoro-benzenesulfonic acid 2-tert-butoxycarbonylamino-1H-benzoimidazol-5-yl ester | 6.45 g | C(C)(C)(C)OC(=O)NC1=NC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)F | C18H18FN3O5S
